US04308258
Sodium methylate (11.90 g, 0.22 mole) was added to a solution of methoxyacetamidine hydrochloride (12.45 g, 0.1 mole) and ethyl 4-chloroacetoacetate (16.50 g, 0.1 mole) in methanol (50 ml) at 5° to 10° C. with stirring. The resulting orange reaction mixture was stirred at 5° to 10° C. for 2 hours and then at 20° C. for 3 hours, and neutralized with conc. hydrochloric acid. The precipitate was filtered, and the filtrate was concentrated under reduced pressure to obtain a residue which was then dissolved in water (300 ml). The aqueous solution was extracted with chloroform, and the chloroform extract was dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain a crystalline residue. The residue was suspended in ether and then filtered to obtain 17.8 g of 6-(chloromethyl)-4-hydroxy-2-(methoxymethyl)pyrimidine as pale brown needle-like crystals (m.p. 124.0°-125.5° C.).

reactant | Sodium methylate | 0.22 mole, 11.90 g | C[O-].[Na+]
reactant | methoxyacetamidine hydrochloride | 0.1 mole, 12.45 g | Cl.COCC(=N)N
reactant | ethyl 4-chloroacetoacetate | 0.1 mole, 16.50 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 6-(chloromethyl)-4-hydroxy-2-(methoxymethyl)pyrimidine | 17.8 g | ClCC1=CC(=NC(=N1)COC)O | C7H9ClN2O2
